US06951884B2
a) 2-Fluoro-4-(4-fluoro-benzyloxy)-benzonitrile
As described for example 1a, 2-fluoro-4-hydroxy-benzonitrile (5.0 g, 36 mmol) [using 4-fluorobenzyl bromide instead of 3-fluorobenzyl bromide] was converted to the title compound (8.9 g, 100%) which was obtained as a white solid. MS: m/e=245.0 (M+).

reactant | 2-fluoro-4-hydroxy-benzonitrile | 36 mmol, 5.0 g | FC1=C(C#N)C=CC(=C1)O | C7H4FNO
reactant | 4-fluorobenzyl bromide | FC1=CC=C(CBr)C=C1 | C7H6BrF
product | 2-Fluoro-4-(4-fluoro-benzyloxy)-benzonitrile | 8.9 g, 100% | FC1=C(C#N)C=CC(=C1)OCC1=CC=C(C=C1)F | C14H9F2NO
